US06727244B2
(1-R and 1-S ,2-R)-2-((R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethoxy)-2-(2-hydroxyethoxy)-1-hydroxy-1-(4-fluorophenyl)ethane
To a solution of 25 mg of (2-R)-2-((R)-1-(3,5-bis(trifluoromethyl)-phenyl)ethoxy)-2-(methoxycarbonylmethoxy)-4′-fluoroacetophenone (higher Rf ester diastereomer) from Example 1 in 1 ml of methanol was added 4 mg of sodium borohydride at room temperature. The reaction was stirred for 16 h and was then quenched 18% aqueous citric acid. HPLC on a reverse phase phenyl column (gradient of 65% A: 35%B to 10% A: 90% B over 50 min, A=10 mM ammonium acetate in water: B=7.2 mM ammonium acetate in 92.8% acetonitrile/7.2% methanol) of the reaction mixture indicated a 4:1 ratio of diastereomeric diol products (Rt=23 and 24 min). The reaction was diluted with water and extracted twice with ethyl acetate. The organic layers were each washed with brine, dried over sodium sulfate, combined and evaporated. Prep TLC (60% ethyl acetate/hexanes) afforded 8 mg of title compound as a 4:1 mixture of diastereomers.

reactant | (2-R)-2-((R)-1-(3,5-bis(trifluoromethyl)-phenyl)ethoxy)-2-(methoxycarbonylmethoxy)-4′-fluoroacetophenone | 25 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H](C(=O)C1=CC=C(C=C1)F)OCC(=O)OC)(F)F | C21H17F7O5
reactant | sodium borohydride | 4 mg | [BH4-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 2-((R)-1-(3,5-Bis(trifluoromethyl)phenyl)ethoxy)-2-(2-hydroxyethoxy)-1-hydroxy-1-(4-fluorophenyl)ethane | 8 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)OC(C(C1=CC=C(C=C1)F)O)OCCO)(F)F | C20H19F7O4
